US09029545B2
Ethyl 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate (865 mg, 2.53 mmol) (Description 14) in DCM (18 mL), was added N-bromosuccinimide (540 mg, 3.03 mmol) and the resulting mixture stirred for 45 min at RT. The mixture was concentrated and purified by chromatography on silica gel, eluting with a gradient of 0-20% ethyl acetate in cyclohexane, to give the title compound (1.02 g). LCMS (A) m/z: 421/423 [M+1]+, Rt 1.57 min (acidic).

reactant | ethyl 4-amino-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 2.53 mmol, 865 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC=C2C2=CC(=CC=C2)OC | C18H18N2O3S
reactant | N-bromosuccinimide | 3.03 mmol, 540 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 1.02 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)Br | C18H17BrN2O3S
